US05905090
N-(4-bromophenyl)-2-hydroxybenzamide
This compound was obtained as a white solid starting from acetylsalicyclic acid and 4-bromoaniline using the same procedure described in example 5.

reactant | acetylsalicyclic acid | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
product | N-(4-bromophenyl)-2-hydroxybenzamide | BrC1=CC=C(C=C1)NC(C1=C(C=CC=C1)O)=O | C13H10BrNO2
